US05006520
To a solution of 90 mg of ethanol, 40 ml of water and 2.0 g of sodium hydroxide was added 13 g of ethyl 3-[4-(3-dimethylaminopropoxy)phenyl]-1H-pyrazolo[3,4-b]pyridin-1-ylacetate. The mixture was stirred at room temperature for 2 hours. After the completion of the reaction, the reaction mixture was adjusted to pH 7 by dilute hydrochloric acid. The mixture was purified with ion-exchange resin (Diaion HP-20) and recrystallized from hydrous methanol to give 3-[4-(3-dimethylaminopropoxy)phenyl]-1H-pyrazolo[3,4-b]pyridin-1-ylacetic acid, m.p. 221°-223° C.

reactant | ethanol | 90 mg | C(C)O | C2H6O
reactant | sodium hydroxide | 2.0 g | [OH-].[Na+]
reactant | ethyl 3-[4-(3-dimethylaminopropoxy)phenyl]-1H-pyrazolo[3,4-b]pyridin-1-ylacetate | 13 g | CN(CCCOC1=CC=C(C=C1)C1=NN(C2=NC=CC=C21)CC(=O)OCC)C | C21H26N4O3
reactant | hydrochloric acid | Cl | ClH
solvent | water | 40 ml | O | H2O
product | 3-[4-(3-dimethylaminopropoxy)phenyl]-1H-pyrazolo[3,4-b]pyridin-1-ylacetic acid | CN(CCCOC1=CC=C(C=C1)C1=NN(C2=NC=CC=C21)CC(=O)O)C | C19H22N4O3
